US06664395B2
To a stirred mixture of 3-isopropyl-3H-benzotriazole-5-carboxylic acid (9 g) in 150 mL of methylene chloride and 0.15 mL of DMF was added 5.0 mL of oxalyl chloride. The solution was stirred overnight before 27 mL of N,N-diisopropylamine and 5.6 g of N,O-dimethylhydroxylamine hydrochloride was added. The mixture was stirred for 3 days before mixture was washed with a solution of sodium dihydrogenphosphate, aqueous bicarbonate, dilute hydrochloric acid, brine, dried (sodium sulfate), filtered, and the filtrate was concentrated to a dark oil. This oil was purified by flash chromatography (eluting with 3:2 ethyl acetate/hexanes) to afford 10.4 g of 3-isopropyl-3H-benzotriazole-5-carboxylic acid methoxy-methyl-amide as brown oil.

reactant | 3-isopropyl-3H-benzotriazole-5-carboxylic acid | 9 g | C(C)(C)N1N=NC2=C1C=C(C=C2)C(=O)O | C10H11N3O2
reactant | oxalyl chloride | 5.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diisopropylamine | 27 mL | C(C)(C)NC(C)C | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 5.6 g | Cl.CNOC
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.15 mL | CN(C)C=O | C3H7NO
product | 3-isopropyl-3H-benzotriazole-5-carboxylic acid methoxy-methyl-amide | 10.4 g | CON(C(=O)C1=CC2=C(N=NN2C(C)C)C=C1)C | C12H16N4O2
